US04302599
Add portion-wise 16.4 g. of m-acetyl-isobutyranilide to a solution of 44 milliliters of concentrated sulfuric acid and 62 milliliters of oleum (30-33%) while maintaining the internal temperature at 0°-5° C. Cool the mixture to -8° C. and add drop-wise 65 milliliters of 90% nitric acid. Stir the reaction mixture at 0°-5° C. for an additional 40 minutes and precipitate the product as described in Example 1 to obtain 3'-acetyl-4'-nitro-isobutyranilide.

reactant | m-acetyl-isobutyranilide | C(C)(=O)C=1C=C(NC(C(C)C)=O)C=CC1 | C12H15NO2
reactant | sulfuric acid | 44 milliliters | S(O)(O)(=O)=O | H2O4S
reactant | oleum | 62 milliliters | OS(=O)(=O)O.O=S(=O)=O
reactant | nitric acid | 65 milliliters | [N+](=O)(O)[O-] | HNO3
product | 3'-acetyl-4'-nitro-isobutyranilide | C(C)(=O)C=1C=C(NC(C(C)C)=O)C=CC1[N+](=O)[O-] | C12H14N2O4
